US05750574
3-tert-Butylamino-4-(2-trifluoromethyl-benzylamino)-cyclobut-3-ene-1,2-dione
The title compound was prepared according to the procedure for example 1-step 2 except that 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione was used in place of (R)-3-ethoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione and 2-trifluoromethyl-benzylamine was used in place of 4-fluoro-benzylamine. Yield: 73%; mp: 237-239° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.37 (m, 9H), 4.81-4.88 (m 2H), 7.56-7.61 (m, 2H), 7.63-7.83 (m, 4H); IR (KBr, cm-1 ): 3299m, 3224m, 3040w, 2976w, 2940w, 1796m, 1670m, 1650m, 1576s, 1534s, 1468s, 1315s, 1216-1127brm; MS (ES) m/z (relative intensity): 349 (M+ +Na, 20), 327 (M+ +H, 100); Anal. Calcd. for C16H17F3N2O2 : C, 58.89; H, 5.25; N, 8.58. Found: C, 58.84; H, 5.28; N, 8.54.

reactant | 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC(C)(C)C)=O)=O | C10H15NO3
reactant | 2-trifluoromethyl-benzylamine | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
reactant | KBr | [K+].[Br-]
product | 3-tert-Butylamino-4-(2-trifluoromethyl-benzylamino)-cyclobut-3-ene-1,2-dione | Yield: 73% | C(C)(C)(C)NC=1C(C(C1NCC1=C(C=CC=C1)C(F)(F)F)=O)=O | C16H17F3N2O2
